US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-6-methylnicotinamide (260 mg, 0.745 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (447 mg, 2.23 mmol) in n-BuOH (3 mL) was heated to 155° C. in a sealed tube. The reaction was then cooled to room temperature and concentrated to dryness. The crude residue was purified by reverse phase HPLC to give (R)-tert-butyl 1-(5-bromo-3-(6-methylnicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (12 mg, 3% yield).

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-6-methylnicotinamide | 0.745 mmol, 260 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=C(C=C2)C)=O)F | C14H10BrFN4O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.23 mmol, 447 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(6-methylnicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 12 mg, 3% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=C(C=C2)C)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C24H29BrN6O3
